US06677368B2
To a solution of cis-4-hydroxy-D-proline (6.5 g, 0.05 mol) in 10% TEA/MeOH (80 mL) was added di-tert-butyl dicarbonate (21.6 g, 2 eq.). After refluxing for 45 mins, the reaction was allowed to cool to rt and the solvent was removed under reduced pressure. The residue was adjusted to pH 3-4 and extracted with ethyl acetate. The combined organic layer was dried and concentrated to give 8 g of (2R,4R)-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester as a white semi-solid.

reactant | cis-4-hydroxy-D-proline | 0.05 mol, 6.5 g | O[C@@H]1C[C@@H](NC1)C(=O)O | C5H9NO3
reactant | di-tert-butyl dicarbonate | 21.6 g, 2 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | (2R,4R)-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 8 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O)C(=O)O | C10H17NO5
